### PR TITLE
[Merged by Bors] - feat(L1Space/IntegrableOn): generalise more lemmas to enorm

### PR DESCRIPTION
**Pull request by grunweg**
- `integrableOn_const` now includes a side condition that the constant is finite: use `by finiteness` as default argument, and teach `finiteness` about `enorm_lt_top` to make this possible.
- Further, rename `integrableOn_const` to `integrableOn_const_iff` (it was always an iff statement), and
- introduce `integrableOn_const` for just the backwards direction (which is the lemma's most common use).
- similarly, introduce `integrableOn_singleton` for the backwards direction of `integrableOn_singleton_iff`, which is its most common use

Future possibilities include generalising norm_le_pi_norm to enorm, and generalising HasFiniteIntegral.of_finite.

---

- [x] depends on: #24343
- [x] depends on: #24355 (generalising remaining theorems in LpSeminorm/Basic, part 1)
- [x] depends on: #24356 (generalising remaining theorems in LpSeminorm/Basic, part 2)
- [x] depends on: #24640 (LpSeminorm/Basic and LpSpace/Basic)
- [x] depends on: #24481
- [x] depends on: #24482
- [x] depends on: #24818
- [x] depends on: #24820

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/L1Space/Integrable.lean [hunk 1]
```diff
@@ -132,27 +179,52 @@ theorem MemLp.integrable_norm_rpow' [IsFiniteMeasure μ] {f : α → β} {p : 
...
     Integrable (fun x : α => ‖f x‖ ^ p.toReal) μ ↔ MemLp f p μ := by
   rw [← memLp_norm_rpow_iff (q := p) hf p_zero p_top, ← memLp_one_iff_integrable,
     ENNReal.div_self p_zero p_top]
 
-theorem Integrable.mono_measure {f : α → β} (h : Integrable f ν) (hμ : μ ≤ ν) : Integrable f μ :=
+lemma integrable_enorm_rpow_iff {f : α → ε} {p : ℝ≥0∞}
+    (hf : AEStronglyMeasurable f μ) (p_zero : p ≠ 0) (p_top : p ≠ ∞) :
+    Integrable (fun x : α => ‖f x‖ₑ ^ p.toReal) μ ↔ MemLp f p μ := by
+  -- TODO: another missing lemma!
+  sorry -- rw [← memLp_enorm_rpow_iff (q := p) hf p_zero p_top, ← memLp_one_iff_integrable,
```
Comment (JonBannon) [inline Mathlib/MeasureTheory/Function/L1Space/Integrable.lean:214]: I guess this PR is still WIP. If it isn't, then this sorried bit needs to go, right?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 2]
```diff
@@ -906,21 +906,32 @@ theorem MemLp.right_of_add_measure [TopologicalSpace ε] {f : α → ε} (h : Me
...
 
-variable {ε : Type*} [TopologicalSpace ε] [ENormedAddMonoid ε]
+variable {ε : Type*} [TopologicalSpace ε] [ContinuousENorm ε]
 
 theorem MemLp.norm {f : α → E} (h : MemLp f p μ) : MemLp (fun x => ‖f x‖) p μ :=
   h.of_le h.aestronglyMeasurable.norm (Eventually.of_forall fun x => by simp)
 
+theorem MemLp.enorm {f : α → ε} (h : MemLp f p μ) : MemLp (‖f ·‖ₑ) p μ :=
+  -- TODO: want .of_le_enorm, just requiring measurability...
+  -- so, must go deeper into the rabbit hole!
```
Comment (JonBannon) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:916]: Another sorried bit... I have to go see if this is still WIP.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by grunweg** [comment]
Note to self: this merge may be broken, re-check the diff carefully!

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 3]
```diff
@@ -89,19 +89,24 @@ def IntegrableOn (f : α → ε) (s : Set α) (μ : Measure α := by volume_tac)
...
   rw [IntegrableOn, Measure.restrict_univ]
 
-theorem integrableOn_zero : IntegrableOn (fun _ => (0 : E)) s μ :=
+theorem integrableOn_zero : IntegrableOn (fun _ => (0 : ε')) s μ :=
   integrable_zero _ _ _
 
 @[simp]
-theorem integrableOn_const {C : E} : IntegrableOn (fun _ => C) s μ ↔ C = 0 ∨ μ s < ∞ :=
-  integrable_const_iff.trans <| by rw [isFiniteMeasure_restrict, lt_top_iff_ne_top]
+theorem integrableOn_const {C : ε'} (hC : ‖C‖ₑ ≠ ∞ := by finiteness) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:106]: The current version forces you to use `(integrableOn_const).2` to make sure the autoparam fires. What about renaming this one to `integrableOn_const_iff`, and having the most typical use case as `integrableOn_const`, phrased as
```
theorem integrableOn_const {C : ε'} (hs : μ s ≠ ∞ := by finiteness) (hC : ‖C‖ₑ ≠ ∞ := by finiteness) : IntegrableOn (fun _ ↦ C) s μ
```

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean:106]: That's a very reasonable idea, let me implement that.

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean]: Done, and mathlib builds.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 4]
```diff
@@ -88,7 +88,8 @@ lemma enorm_eq_nnnorm (x : E) : ‖x‖ₑ = ‖x‖₊ := rfl
 @[simp, norm_cast] lemma enorm_lt_coe : ‖x‖ₑ < r ↔ ‖x‖₊ < r := by simp [enorm]
 
 @[simp] lemma enorm_ne_top : ‖x‖ₑ ≠ ∞ := by simp [enorm]
-@[simp] lemma enorm_lt_top : ‖x‖ₑ < ∞ := by simp [enorm]
+@[aesop (rule_sets := [finiteness]) safe apply, simp]
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Normed/Group/Basic.lean:91]: The `≠` version should be tagged with `finiteness` instead:
* for all other lemmas the `≠` is tagged
* The fact that `Ne.lt_top` is a safe rule and `ne_top_of_lt` is an unsafe rule, `aesop` tries to use `≠` as its intermediate representation that things are finite (but can use the `<` as well, although reluctantly).

Feel free to add a sentence of that effect to the `Finiteness` module doc.

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 5]
```diff
@@ -158,41 +167,48 @@ theorem IntegrableOn.left_of_union (h : IntegrableOn f (s ∪ t) μ) : Integrabl
...
 @[simp]
-theorem integrableOn_finite_iUnion [Finite β] {t : β → Set α} :
+theorem integrableOn_finite_iUnion [PseudoMetrizableSpace ε] [Finite β] {t : β → Set α} :
     IntegrableOn f (⋃ i, t i) μ ↔ ∀ i, IntegrableOn f (t i) μ := by
   cases nonempty_fintype β
-  simpa using @integrableOn_finset_iUnion _ _ _ _ _ f μ Finset.univ t
+  simpa using integrableOn_finset_iUnion (f := f) (μ := μ) (s := Finset.univ) (t := t)
 
+-- TODO: generalise this lemma and the next to enorm classes; this entails assuming that
+-- f is integrable on each singleton, i.e. finite almost everywhere...
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:211]:
```suggestion
-- f is finite on each element of `s`
```
right?

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 6]
```diff
@@ -202,51 +218,57 @@ lemma IntegrableOn.of_finite [MeasurableSingletonClass α] {μ : Measure α} [Is
...
 
 theorem _root_.MeasurableEmbedding.integrableOn_range_iff_comap [MeasurableSpace β] {e : α → β}
-    (he : MeasurableEmbedding e) {f : β → E} {μ : Measure β} :
+    (he : MeasurableEmbedding e) {f : β → ε} {μ : Measure β} :
     IntegrableOn f (range e) μ ↔ Integrable (f ∘ e) (μ.comap e) := by
   rw [he.integrableOn_iff_comap .rfl, preimage_range, integrableOn_univ]
 
-theorem integrableOn_iff_comap_subtypeVal (hs : MeasurableSet s) :
-    IntegrableOn f s μ ↔ Integrable (f ∘ (↑) : s → E) (μ.comap (↑)) := by
+theorem integrableOn_iff_comap_subtypeVal {f : α → ε} (hs : MeasurableSet s) :
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:249]:
```suggestion
theorem integrableOn_iff_comap_subtypeVal (hs : MeasurableSet s) :
```
?

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 7]
```diff
@@ -158,41 +167,48 @@ theorem IntegrableOn.left_of_union (h : IntegrableOn f (s ∪ t) μ) : Integrabl
...
 @[simp]
-theorem integrableOn_union : IntegrableOn f (s ∪ t) μ ↔ IntegrableOn f s μ ∧ IntegrableOn f t μ :=
+theorem integrableOn_union [PseudoMetrizableSpace ε] :
+    IntegrableOn f (s ∪ t) μ ↔ IntegrableOn f s μ ∧ IntegrableOn f t μ :=
   ⟨fun h => ⟨h.left_of_union, h.right_of_union⟩, fun h => h.1.union h.2⟩
 
 @[simp]
-theorem integrableOn_singleton_iff {x : α} [MeasurableSingletonClass α] :
+theorem integrableOn_singleton_iff {f : α → ε'} {x : α}
+    [MeasurableSingletonClass α] (hfx : ‖f x‖ₑ ≠ ⊤) :
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:182]:
```suggestion
    [MeasurableSingletonClass α] (hfx : ‖f x‖ₑ ≠ ⊤ := by finiteness) :
```
maybe?

**Review by fpvandoorn — COMMENTED** [review]
LGTM

few comments

bors d+

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:90]: Thanks; changed (and added two sentences to the module docs).

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean:211]: I'd think your phrasing is slightly weaker: if f is infinite on some s, but that element has measure zero --- we are fine, right?

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean]: Good idea! I also added a version `integrableOn_singleton`, similarly to `integrableOn_const`.

**Comment by grunweg** [comment]
Thanks for the review!
bors merge
